US04103086
cis-3-t-Butoxycarbonylamino-4-oxo-2-azetidinylmethyl tosylate
To a solution of 0.9 g (4.3 mmole) of 98% p-toluenesulfonyl chloride in 10 ml of dry pyridine at 0° is added 0.9 g (4.15 mmole) of 3-t-butoxycarbonylamino-2-hydroxymethyl-4-oxoazetidine. The mixture is stirred for 2 hr at 0° and then stored at 5° overnight. After addition of 0.5 ml of 85% lactic acid, the mixture is stirred for 1 hr, poured into ethyl acetate and washed with dilute HCl, 5% NaHCO3, and brine. The extract is dried over magnesium sulfate and evaporated to dryness to give 1.1 g (70%) of crystalline title product. Recrystallization from hexane-ethyl acetate gives an analytical sample, mp 160°-162° (d).

reactant | p-toluenesulfonyl chloride | 4.3 mmole, 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-t-butoxycarbonylamino-2-hydroxymethyl-4-oxoazetidine | 4.15 mmole, 0.9 g | C(C)(C)(C)OC(=O)NC1C(NC1=O)CO | C9H16N2O4
reactant | lactic acid | 0.5 ml | C(C(O)C)(=O)O | C3H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | cis-3-t-Butoxycarbonylamino-4-oxo-2-azetidinylmethyl tosylate | 1.1 g, 70% | S(=O)(=O)(OC[C@@H]1NC([C@@H]1NC(=O)OC(C)(C)C)=O)C1=CC=C(C)C=C1 | C16H22N2O6S
